US07842500B2
1. Biotin Labeling of Natural GAGs
Natural GAGs (NAH, HS, HA, HEP, Ch, CS-A(S), CS-A(W), CS-B, CS-C, CS-D, CS-E, and KS) were dissolved in 0.1 M MES buffer (pH 5.5) to prepare 10 mg/ml GAG solutions. 25 μl of 20 mM biotin-LC-hydrazide (manufactured by Pierce Biotechnology) dissolved in dimethylsulfoxide (manufactured by Wako Pure Chemical Industries, Ltd.) was added to 1 ml of each GAG solution. Subsequently, 12.5 μl of a 100 mg/ml EDC (manufactured by Pierce Biotechnology) solution prepared with 0.1 M MES buffer (pH 5.5) was added thereto. The mixture was mixed well, and then allowed to react with stirring at normal temperature (15° C. to 25° C.) for 16 to 24 hours. After completion of the reaction, the reaction products were dialyzed by using a dialysis membrane (cutoff molecular weight: 10,000 or less) against phosphate buffered saline (pH 7.2 to 7.5, containing no divalent ions such as calcium ion: hereinafter, referred to as “PBS(−)”) as dialysis solution, to thereby sufficiently remove free biotin. After completion of dialysis, the concentration of Bi-GAG was adjusted to 5 mg/ml, followed by freeze preservation.

reactant | biotin-LC-hydrazide | 20 mM, 25 μl | C1[C@H]2[C@@H]([C@@H](S1)CCCCC(=O)NCCCCCC(=O)NN)NC(=O)N2 | C16H29N5O3S
reactant | EDC
reactant | MES | 0.1 M, pH 5.5 | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
reactant | MES | 0.1 M, pH 5.5 | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
